US05366993
A. 1-(3-phenyl-1-propenyl)cyclododecane
To 11.4 g (25.5 mmol) of phenylethyl triphenylphosphonium bromide in 50 mL of dry ether at 0° C. is added 10.2 mL (25.5 mmol) of 2.5M butyllithium. The suspension is stirred at 0° C. for 1 hour followed by the addition of 5.0 g (25.5 mmol) of cyclododecane carboxaldehyde. The mixture is stirred at room temperature for 3 hours after which time no starting material is evident by TLC. The reaction mixture is quenched with 1N HCl. The layers are separated and the aqueous layer is washed twice with ethyl ether. The combined organic layers are dried over a MgSO4 and the ether is evaporated. The residue is flash chromatographed on silica gel using hexanes to give 6.4g of a colorless oil: NMR (CDCl3) δ1.0-1.6 (m, 10H), 2.6 (m, 1H), 3.4 (d, 2H, J=8 Hz, ), 5.3 (t, 1H, J=7 Hz), 5.45 (q, 1H, J=7 Hz), 7.2 ppm (m, 5H).

reactant | phenylethyl triphenylphosphonium bromide | 25.5 mmol, 11.4 g | [Br-].C1(=CC=CC=C1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyllithium | 25.5 mmol, 2.5M, 10.2 mL | C(CCC)[Li]
reactant | cyclododecane carboxaldehyde | 25.5 mmol, 5.0 g | C1(CCCCCCCCCCC1)C=O | C13H24O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 1-(3-phenyl-1-propenyl)cyclododecane | 6.4g | C1(=CC=CC=C1)CC=CC1CCCCCCCCCCC1 | C21H32
